US08124629B2
A solution of (2-bromo-4,5-difluoro-phenyl)-methanol (1.23 g, 5.50 mmol), triethylamine (1.39 g, 13.75 mmol) and dimethyl sulfoxide (1.72 g, 22.00 mmol) in dichloromethane (25 mL) was cooled to 0° C. Then, sulfur trioxide-pyridine (1.32 g, 8.25 mmol) was added portionwise. After one hour stirring at 0° C., a second batch of triethylamine (1.39 g, 13.75 mmol), dimethyl sulfoxide (1.72 g, 22.00 mmol) and sulfur trioxide-pyridine (1.32 g, 8.25 mmol) were added to the above reaction mixture. After another 30 minutes at 0° C., the reaction solution was diluted with dichloromethane (50 mL), and then washed with saturated sodium bicarbonate and saturated sodium thiosulfate. The organic phase was dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (RediSep® Flash column, 230-400 mesh, 10-30% ethyl acetate in hexane) afforded 2-bromo-4,5-difluoro-benzaldehyde (0.47 g, 39%). 1H NMR (300 MHz, CDCl3) δ 10.23 (s, 1 H), 7.77 (m, 1 H), 7.52 (m, 1 H).

reactant | (2-bromo-4,5-difluoro-phenyl)-methanol | 5.50 mmol, 1.23 g | BrC1=C(C=C(C(=C1)F)F)CO | C7H5BrF2O
reactant | triethylamine | 13.75 mmol, 1.39 g | C(C)N(CC)CC | C6H15N
reactant | dimethyl sulfoxide | 22.00 mmol, 1.72 g | CS(=O)C | C2H6OS
reactant | sulfur trioxide-pyridine | 8.25 mmol, 1.32 g | N1=CC=CC=C1.S(=O)(=O)=O
reactant | triethylamine | 13.75 mmol, 1.39 g | C(C)N(CC)CC | C6H15N
reactant | dimethyl sulfoxide | 22.00 mmol, 1.72 g | CS(=O)C | C2H6OS
reactant | sulfur trioxide-pyridine | 8.25 mmol, 1.32 g | N1=CC=CC=C1.S(=O)(=O)=O
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-bromo-4,5-difluoro-benzaldehyde | 0.47 g, 39% | BrC1=C(C=O)C=C(C(=C1)F)F | C7H3BrF2O
